data/pmechdb/original/mc_train_fold0/raw/train.txt
COC1C(C(C2C(O1)COC(O2)C3=CC=CC=C3)I)O[P:10](C4=CC=CC=C4)(C5=CC=CC=C5)(C6=CC=CC=C6)[I:11].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=C[NH+]=CN1.[I-]>>COC1C(C(C2C(O1)COC(O2)C3=CC=CC=C3)I)O[P+:10](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6.[I-:11].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=C[NH+]=CN1.[I-] 10,11=11
CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)C(=[OH+])O[C:20](C(=O)Cl)([O-:10])[Cl:21]>>CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)C(=[OH+])O[C:20](=[O:10])C(=O)Cl.[Cl-:21] 10=20;20,21=21
[H:20][N+:21](=NO)CC1CC1.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CC1C[N:21]=NO 10=20;20,21=21
CC[C:20]#[NH+:21].[OH2:10]>>CC[C:20](=[NH:21])[OH2+:10] 10=20;20,21=21
CON1C2=C(C=CC=C2)C3(C1=O)C[CH:10](C4CC(=O)C3OC4)[C:11](=[N:20][N+:21]#N)[O-:12].[Cl-]>>CON1C2=C(C=CC=C2)C3(C1=O)C[CH:10](C4CC(=O)C3OC4)[N:20]=[C:11]=[O:12].N#[N:21].[Cl-] 10,11=10,20;20,21=21;12=11
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC1(C2CCC3CC4CC3(C2(CCC1[OH:10])C)CCC4O)C.CC(=O)[O-]>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]C3CCC4(C(C3(C)C)CCC5C46CCC(C(C5)C6)O)C)OC(=O)C.CC(=O)[O-] 10=20,
CS[CH:20]([OH2+:21])[OH:10]>>CS[CH:20]=[OH+:10].[OH2:21] 10=20;20,21=21
C[Si-:10](C)(C)(O)[Cl:11]>>C[Si:10](C)(C)O.[Cl-:11] 10,11=11
[B-]([O+:21]1CCC[N:10]([CH:20]1C)C)(F)(F)F>>[B-]([O:21]CCC[N+:10](=[CH:20]C)C)(F)(F)F 10=20;20,21=21
[H:20][OH2+:21].C1=CC(=CC=C1C=[C:10]=[CH:11][OH:12])OCCCCC2=CNC=N2.CCO>>[H:20][C:10](=CC1=CC=C(C=C1)OCCCCC2=CNC=N2)[CH:11]=[OH+:12].[OH2:21].CCO 10,11=10,20;20,21=21;12=11
[B-:10]1(OC2=C(O1)C=CC=C2)(C3=C([S+](C4=C3C=CC=C4)C)CCCC)[Cl:11]>>[B:10]1(OC2=C(O1)C=CC=C2)C3=C([S+](C4=C3C=CC=C4)C)CCCC.[Cl-:11] 10,11=11
[H:20][N+:21]1(CCN(CC1)C2=CC3=C(C=C2F)C(=O)C(=CN3C4CC4)C(=O)OCC)C(C5=CC6=C(C=C5)C(N(C6(C)C)OC)(C)C)O.CC(=O)[O-:10].CO>>[H:20][O:10]C(=O)C.CCOC(=O)C1=CN(C2=C(C1=O)C=C(C(=C2)N3CC[N:21](CC3)C(C4=CC5=C(C=C4)C(N(C5(C)C)OC)(C)C)O)F)C6CC6.CO 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C1=CC=CC=C1)Br.C(=[O:10])(O[K])O[K].COC(=O)C(=O)C1=CC=CC=C1>>[H:20][O+:10]=C(O[K])O[K].C1=CC=C(C=C1)[C:22](=[CH:21]Br)[O-:23].COC(=O)C(=O)C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
[H:20][O:21]CC.CC[C:11](=[CH:10]CC1(CCCCC1=O)C)[O-:12]>>[H:20][CH:10](CC1(CCCCC1=O)C)[C:11](=[O:12])CC.CC[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1C2C3CC4=C5C2(CCN3CC6CC6)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.COC1=C2C3=C(CC4C5C3(CCN4CC6CC6)C(O2)C([CH:22]=[CH:21]5)(OC)OC)C=C1.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C(=C[NH+:23]=[C:22]1C)C)CCC(=O)OC.[NH3:10].C(=O)(O)[O-].O>>[H:20][NH3+:10].CC1=C[NH:23][C:22](=[C:21]1CCC(=O)OC)C.C(=O)(O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.N(=O)[OH:10].C1C2C=CC(C1(CN)O)O2.O.OS(=O)(=O)[O-].[Na+]>>[H:20][OH+:10]N=O.OS(=O)(=O)[O-:21].C1C2C=CC(C1(CN)O)O2.O.OS(=O)(=O)[O-].[Na+] 10=20;20,21=21
C[Si](C)(C)C[C:11]#[C:10]CC1=C(C=CC=C1)[NH+:21]=[CH:20]C2=CC=CS2.C1=CC=C(C=C1)OP(=O)([O-])OC2=CC=CC=C2>>C[Si](C)(C)C[C+:11]=[C:10]1CC2=C(C=CC=C2)[NH:21][CH:20]1C3=CC=CS3.C1=CC=C(C=C1)OP(=O)([O-])OC2=CC=CC=C2 10,11=10,20;20,21=21
C1=CC=C(C=C1)C(=O)[C:20](=[O:21])C2=CC=CC=C2.C(CN)[NH2:10].CCO.CC(=O)O>>C1=CC=C(C=C1)C(=O)[C:20](C2=CC=CC=C2)([NH2+:10]CCN)[O-:21].CCO.CC(=O)O 10=20;20,21=21
C[OH:10].CO[PH+:20](Cl)Cl>>C[OH+:10][PH:20](OC)(Cl)Cl 10=20,
CC1=CC=C[CH+:20][C:10]1(S(=O)(=O)C2=CC=CC=C2)[Sn-:11](C)(C)(C)Cl>>CC1=CC=C[CH:20]=[C:10]1S(=O)(=O)C2=CC=CC=C2.C[Sn:11](C)(C)Cl 10,11=10,20
C=CC1=CC2=C(C=C1)[C:20](=[O+:21][Ti-](Cl)(Cl)(Cl)Cl)CCO2.C1COCC[NH:10]1>>C=CC1=CC2=C(C=C1)[C:20](CCO2)([NH+:10]3CCOCC3)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10=20;20,21=21
C[C+:20](C)C.C(=O)(C(F)(F)F)[O-:10].CCCC(CC(=O)O)CO>>C[C:20](C)(C)[O:10]C(=O)C(F)(F)F.CCCC(CC(=O)O)CO 10=20,
CCCC(CC(=O)OC(C)(C)C)[CH:20]([O-:10])[O:21]C(=O)OCC.B.[Na+]>>CCCC(CC(=O)OC(C)(C)C)[CH:20]=[O:10].CCOC(=O)[O-:21].B.[Na+] 10=20;20,21=21
[H:20][CH2:21][CH2:22][O:23]P(=O)(Cl)Cl.C1=CC=[N:10]C=C1>>[CH2:21]=[CH2:22].[H:20][N+:10]1=CC=CC=C1.[O-:23]P(=O)(Cl)Cl 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1(CCCCC1C(=O)O)C(CCC[N+](=O)[O-])O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1CC[N:21](C(C1)C(=O)O)C(CCC[N+](=O)[O-])O 10=20;20,21=21
C[O+](C)[Si:20](C)(C)C.[F-:10]>>C[O+](C)[Si-:20](C)(C)(C)[F:10] 10=20,
[H:20][C:21]1(C=C(C=C([CH+:22]1)[N+](=O)[O-])Cl)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.[CH:22]1=[C:21](C=C(C=C1[N+](=O)[O-])Cl)[N+](=O)[O-] 10=20;20,21=21,22
CC(C)[OH:10].CC(C)O[Al:20](OC1CC2(C3(CC4C(CC3C1=O)OC(O4)(C)C)C)OCCO2)OC(C)C>>CC(C)[OH+:10][Al-:20](OC1CC2(C3(CC4C(CC3C1=O)OC(O4)(C)C)C)OCCO2)(OC(C)C)OC(C)C 10=20,
CCCC[Sn](CCCC)(CCCC)[C:10]1=[CH:11][CH:12]=[C:13](C=C1)[O:14]C.C[N+:21](=[CH2:20])C.[I-]>>CCCC[Sn](CCCC)(CCCC)[C:10]1(C=C[C:13](=[O+:14]C)[CH:12]=[CH:11]1)[CH2:20][N:21](C)C.[I-] 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][CH:21](C)[CH:22]=[O:23].CC[O-:10]>>[H:20][O:10]CC.C[CH:21]=[CH:22][O-:23] 10=20;22,23=23;20,21=21,22
[CH:20](=[NH2+:21])N.[OH2:10].[C-]#N.N.[Cl-]>>[CH:20](N)([NH2:21])[OH2+:10].[C-]#N.N.[Cl-] 10=20;20,21=21
